* C:\users\sebastian\Desktop\FIUBA-2do Cuatrimestre\Taller de Diseño Electrónico TA138\TP_Taller_de_Diseño_ TA138_G7\Simulación\simulacion_LDO.asc
* Generated by LTspice 24.1.5 for Windows.
Q1 VG Vref N004 0 2N3904
Q2 N001 N003 N004 0 2N3904
Q3 VG N001 Vcc 0 2N3906
Q4 N001 N001 Vcc 0 2N3906
Rz Vcc Vref 100
D1 0 Vref 1N750
V1 Vcc N002 SINE(0 0.2 100k) AC 1
V2 N002 0 9.5 AC 1
R3 N003 0 100k
R4 Vo N003 4.7k
RL 0 Vo 10k
Q5 N004 N005 0 0 2N3904
Q6 N005 N005 0 0 2N3904
R1 Vref N005 1k
M2 Vo VG Vcc Vcc RRS140P03
.model D D
.lib C:\users\sebastian\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\sebastian\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sebastian\AppData\Local\LTspice\lib\cmp\standard.mos
.dc V2 0 24 0.1
.backanno
.end
